US08022062B2
Use a method similar to the General Procedure 7, using 3-tert-butoxycarbonyl-7-cyano-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (123 mg, 0.33 mmol) and 4-fluorobenzyl bromide (204 mg, 1.64 mmol), to give 3-tert-butoxycarbonyl-7-cyano-6-(4-fluoro-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a colorless oil (118 mg, 87%).

reactant | 3-tert-butoxycarbonyl-7-cyano-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.33 mmol, 123 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)C#N)SC(N(C)C)=O | C19H25N3O3S
reactant | 4-fluorobenzyl bromide | 1.64 mmol, 204 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | 3-tert-butoxycarbonyl-7-cyano-6-(4-fluoro-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 118 mg, 87% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)C#N)SCC2=CC=C(C=C2)F | C23H25FN2O2S
